US07501438B2
Preparation of 3-naphthalen-1-yl-imidazo[1,5-a]pyridine-1-carboxylic acid
To a solution of 2,2,2-trifluoro-1-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-ethanone (260 mg, 0.76 mmol) in EtOH (10 mL) was added KOH (582 mg, 10.4 mmol) and the mixture was heated to reflux for 30 min. The mixture was allowed to cool and concentrated. The residue was dissolved in water (25 mL) and acidified to pH 3 with 2N HCl. The precipitate was filtered, dried and recrystallized from ethyl acetate to yield the title compound (120 mg, 55%). 8.30 (1H), 8.10 (2H), 7.78 (2H), 7.70 (1H), 7.59 (2H), 7.52 (1H), 7.02 (1H), 6.70 (1H); m/z (M+H)=289.24.

reactant | 2,2,2-trifluoro-1-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-ethanone | 0.76 mmol, 260 mg | FC(C(=O)C=1N=C(N2C1C=CC=C2)C2=CC=CC1=CC=CC=C21)(F)F | C19H11F3N2O
reactant | KOH | 10.4 mmol, 582 mg | [OH-].[K+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-naphthalen-1-yl-imidazo[1,5-a]pyridine-1-carboxylic acid | 120 mg, 55% | C1(=CC=CC2=CC=CC=C12)C1=NC(=C2N1C=CC=C2)C(=O)O | C18H12N2O2
